US08669254B2
6-Chloro-4-(4-chloro-phenyl)-3-(2,2,2-trifluoro-ethoxy)-pyridazine
A mixture of 0.676 g 4-bromo-6-chloro-3-(2,2,2-trifluoro-ethoxy)-pyridazine, 363 mg 4-chlorophenylboronic acid, 641 mg potassium carbonate and 134 mg tetrakis(triphenylphosphine) palladium in 15 ml tetrahydrofuran and 15 ml water was heated to reflux for 18 h. The reaction mixture was partitioned between water and ethyl acetate. The phases were separated and the organic phase was purified by chromatography on silica gel using a gradient of heptane:ethyl acetate of 95:5 to 50:50 to yield 0.493 g of the title compound as white solid. MS (EI): 323.1 (M+H).

reactant | 4-bromo-6-chloro-3-(2,2,2-trifluoro-ethoxy)-pyridazine | 0.676 g | BrC1=C(N=NC(=C1)Cl)OCC(F)(F)F | C6H3BrClF3N2O
reactant | 4-chlorophenylboronic acid | 363 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | potassium carbonate | 641 mg | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 15 ml | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium | 134 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 6-Chloro-4-(4-chloro-phenyl)-3-(2,2,2-trifluoro-ethoxy)-pyridazine | 0.493 g | ClC1=CC(=C(N=N1)OCC(F)(F)F)C1=CC=C(C=C1)Cl | C12H7Cl2F3N2O
